US07872014B2
A solution of methyl 5-amino-2,3-bis{[2-(methyloxy)ethyl]oxy}benzoate (2.2 g, 7.4 mmol) in 1,2-dimethoxyethane (5 mL) was cooled at −4° C. and then cooled in solid dry-ice. To this mixture was added first boron trifluoride diethyl etherate (1.3 mL, 10 mmol), and then tert-butylnitrite (1.4 mL, 12 mmol), and the resulting mixture was stirred at −4° C. for 2 hours. It was then diluted with ether (100 mL) and a solid precipitated and was collected and washed with ether. The solid was suspended in 1,2,4-trichlorobenzene (20 mL) and heated at 110° C. for 18 hours. After cooling to room temperature, it was applied directly onto a silica gel column with hexane, and then chromatographed (30% ethyl acetate-hexane) to give methyl 5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}benzoate (0.35 g, 1.2 mmol, 16% yield). 1H NMR (400 MHz, CDCl3): 7.05-7.02 (d, d, 1H), 6.83-6.80 (d, d, 1H), 4.20-4.13 (m, 4H), 3.90 (s, 3H), 3.79-3.72 (m, 4H), 3.44 (s, 6H).

reactant | methyl 5-amino-2,3-bis{[2-(methyloxy)ethyl]oxy}benzoate | 7.4 mmol, 2.2 g | NC=1C=C(C(=C(C(=O)OC)C1)OCCOC)OCCOC | C14H21NO6
reactant | dry-ice | C(=O)=O | CO2
reactant | boron trifluoride diethyl etherate | 10 mmol, 1.3 mL | B(F)(F)F.CCOCC
reactant | tert-butylnitrite | 12 mmol, 1.4 mL | C(C)(C)(C)ON=O | C4H9NO2
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | ether | 100 mL | CCOCC | C4H10O
product | methyl 5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}benzoate | 1.2 mmol, 0.35 g, 16% yield | FC=1C=C(C(=C(C(=O)OC)C1)OCCOC)OCCOC | C14H19FO6
